US08258131B2
(1) Preparation of 4-chloro-2,2-dimethyl-7-nitro-2H-1,3-benzoxazine
Phosphorus pentachloride (5.5 g) was added to a solution of 2,2-dimethyl-7-nitro-3,4-dihydro-2H-1,3-benzoxazine-4-one (4 g) in phosphoryl chloride (15 mL) at 0° C., and the mixture was stirred at room temperature for one hour. The mixture was heated to 60° C. and stirred at the same temperature overnight. After cooling to 0° C., the reaction mixture was poured into ice water (300 mL) After stirring for 30 minutes, the mixture was extracted with ethyl acetate (100 mL×2). The combined organic layer was washed with brine (100 mL×2), dried over sodium sulfate and concentrated in vacuo to give the titled compound (2.34 g) as a brown oil, which was used in the next step without further purification.

reactant | Phosphorus pentachloride | 5.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2,2-dimethyl-7-nitro-3,4-dihydro-2H-1,3-benzoxazine-4-one | 4 g | CC1(OC2=C(C(N1)=O)C=CC(=C2)[N+](=O)[O-])C | C10H10N2O4
solvent | phosphoryl chloride | 15 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,2-dimethyl-7-nitro-2H-1,3-benzoxazine | 2.34 g | ClC1=NC(OC2=C1C=CC(=C2)[N+](=O)[O-])(C)C | C10H9ClN2O3
